US07279595B2
N-[2-(ethoxycarbonyl)butyl]-N-methoxycarbonylalanine
To a suspension of N-[2-(ethoxycarbonyl)butyl]alanine (4.35 g, 20 mmol) in acetone (50 mL) was added a solution of triethylamine (5.5 mL, 4.05 g, 40 mmol) in acetone (10 mL) followed by methyl chloroformate (4.0 mL, 4.91 g, 52 mmol) at 0-5° C. After stirring for 2 h at ambient temperature the solvent was evaporated and the residue was stirred with a mixture of water (40 mL) and concentrated hydrochloric acid (0.4 mL) for 8 h at ambient temperature. The mixture was extracted with ethyl acetate (40 mL) and the solution in ethyl acetate was extracted with cold aqueous sodium hydroxide solution [prepared from ice (20 g) and aqueous sodium hydroxide solution (1N, 40 mL)]. Concentrated hydrochloric acid (3 mL) was added to the aqueous layer and the mixture was extracted with ethyl acetate (40 mL). After drying and evaporation N-[2-(ethoxycarbonyl)butyl]-N-methoxycarbonylalanine (3.84 g, 70%) was obtained as a yellow oil which can be used in the next reaction without further purification.

reactant | N-[2-(ethoxycarbonyl)butyl]alanine | 20 mmol, 4.35 g | C(C)OC(=O)C(CN[C@@H](C)C(=O)O)CC | C10H19NO4
reactant | triethylamine | 40 mmol, 5.5 mL, 4.05 g | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 52 mmol, 4.0 mL, 4.91 g | ClC(=O)OC | C2H3ClO2
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | N-[2-(ethoxycarbonyl)butyl]-N-methoxycarbonylalanine | C(C)OC(=O)C(CN([C@@H](C)C(=O)O)C(=O)OC)CC | C12H21NO6
